US06051712
A mixture of 1.3 g (2.1 mmol) of 2,2,2-trichloroethyl (3RS,4RS)-4-(4-bromo-phenyl)-3-(2,2,2-trichloro-ethoxy-carbonyloxy)-piperidine-1-carboxylate 1.54 g of activated zinc in 20 ml of glacial acetic acid was stirred at room temperature for 5 hours. For the working-up, the zinc was filtered off, the residue was rinsed with glacial acetic acid and the solution was subsequently evaporated to dryness under reduced pressure. The residue was partitioned between 20 ml of saturated sodium carbonate solution and 30 ml of ethyl acetate, thereafter the separated aqueous phase was extracted twice with 30 ml of ethyl acetate each time. The combined organic phases were dried over sodium sulphate and evaporated under reduced pressure. Crystallization of the residue using a 1:2 mixture of ethyl acetate and hexane yielded 250 mg (46% of theory) of (3RS,4RS)-4-(4-bromo-phenyl)-piperidin-3-ol as a colourless solid; MS: 255, 257 (M)+. The mother liquor was purified by chromatography on silica gel using a 4:1 mixture of methylene chloride and methanol as the eluent. A further 101 mg (18% of theory) were obtained.

reactant | 2,2,2-trichloroethyl (3RS,4RS)-4-(4-bromo-phenyl)-3-(2,2,2-trichloro-ethoxy-carbonyloxy)-piperidine-1-carboxylate | 2.1 mmol, 1.3 g | BrC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC(Cl)(Cl)Cl)OC(=O)OCC(Cl)(Cl)Cl | C17H16BrCl6NO5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | (3RS,4RS)-4-(4-bromo-phenyl)-piperidin-3-ol | 250 mg, 46% | BrC1=CC=C(C=C1)C1C(CNCC1)O | C11H14BrNO
